US07767829B2
8.2 5-(Trifluoromethylthio)-2,3-dimethyl-3-(4-sulfobutyl)-3H-indole
To 4-(trifluoromethylthio)phenylhydrazine (1 g) in acetic acid (40 ml) was added 5-methyl-6-oxoheptane-1-sulphonic acid (1.4 g) and the solution heated to reflux overnight. The volatiles were removed on a rotary evaporator to give the crude product, 1.1 g of which was purified by preparative HPLC. The relevant fractions were combined, concentrated on a rotary evaporator and freeze dried to give the desired product (260 mg). M+=381

reactant | 4-(trifluoromethylthio)phenylhydrazine | 1 g | FC(SC1=CC=C(C=C1)NN)(F)F | C7H7F3N2S
reactant | 5-methyl-6-oxoheptane-1-sulphonic acid | 1.4 g | CC(CCCCS(=O)(=O)O)C(C)=O | C8H16O4S
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 5-(Trifluoromethylthio)-2,3-dimethyl-3-(4-sulfobutyl)-3H-indole | 260 mg | FC(SC=1C=C2C(C(=NC2=CC1)C)(CCCCS(=O)(=O)O)C)(F)F | C15H18F3NO3S2
